Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])([H:9])[H:10].[O:1]([C:2][H:8])[H:7],69.0743696327576
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][H:11])([H:8])([H:9])[H:10].[C:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])([H:12])[H:13],62.911367046434094
[O:1](/[N:3]=[C:2]1/[C:4]([O:5][H:9])=[C:6]([H:10])[N:7]1[H:11])[H:8]>>[O:1]([c+:2]1[n-:3][c:4]([O:5][H:9])[c:6]([H:10])[n:7]1[H:11])[H:8],61.487002028157505
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:4]([O:5][H:16])([H:14])[H:15])[C:3]([H:12])([H:13])[N:7]([H:11])[C:6]1)([H:8])([H:9])[H:10],119.235976601047
[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]=[O:5])([H:7])[H:8].[N:6]([H:9])([H:10])[H:11],61.1329505848629
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[O:5])[C@:7]1([C:6]([H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10],56.4008992446064
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:6]([H:13])([H:14])[C@@:7]1([C:4][O:5][H:12])[H:15])[H:8],92.4896070336953
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:6]=[C:5]=[C:4]=[C:3]=[C:2]([H:10])[H:11])([H:7])([H:8])[H:9],91.3899798284539
[C:1]([O:6][C:5](=[O:4])[H:11])([H:7])([H:8])[H:9].[C:2]=[N:3][H:10]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],72.32616354288979
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])/[C:6]1=[C:7](\[C:4]#[N:5])[H:14])([H:8])([H:9])[H:10],80.17726350697491
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])([H:9])[H:13],80.09977939527809
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12]>>[C@@:1]12([H:7])[C@@:4]3([H:10])[O:3][C:2]([H:8])([H:9])[C@:6]1([H:12])[C@@:5]23[H:11],72.128898752452
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3]([H:9])[H:11])[O:4][H:12])([H:5])([H:6])[H:7].[H:8][H:10],97.57177602724329
[C:1]([C@:2]([O:3][H:11])(/[C:4](=[N:5]/[H:14])[H:13])[H:12])([H:8])([H:9])[H:10].[C:6](#[N:7])[H:15]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],48.04987583214059
[C:1]1([H:8])([H:9])[C@@:2]([C:6]#[N:7])([H:11])[C:3]([H:12])([H:13])[C@:4]1([O:5][H:10])[H:14]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],62.10782758458051
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:5]([O:6][H:13])([H:7])([H:11])[H:12].[N:1](=[C:2]1\[O:3][C:4]1([H:9])[H:10])\[H:8],95.75545415881771
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],77.0523056751587
[C:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]1[H:12])([H:6])([H:7])[H:8].[C:5]([H:11])([H:13])([H:14])[H:15]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12])([H:6])([H:7])[H:8],76.5918445089184
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1]=[C:2]([C:3]([C:4]1([H:11])[C:5]([H:7])=[C:6]1[H:12])([H:9])[H:10])[H:8],47.5587632266985
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:12])[H:13],71.6920895409031
[N:1]([C:2]1=[C:3]([H:10])[C@@:7]1(/[C:5](=[N:4]/[H:11])[O:6][H:12])[H:13])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[c:7]1[H:13])([H:8])[H:9],43.573632297405894
[N:1]([C:3](=[C:2]=[N:7][C+:5]([N-:4][H:11])[O:6][H:12])[H:10])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9],38.13038241855109
[N:1]([C@@:2]1([H:9])[O:3][C:4]([H:10])([H:11])[C:5]1([H:12])[H:13])([C:6]#[N:7])[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],64.6165561353581
[C:1]([O:2][C:3]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:4](=[O:5])=[C:6]([H:13])[H:14]>>[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],59.3169061063219
